US08729263B2
To a mixture of 4-bromo-1H-imidazole (1.0 g, 6.8 mmol) in THF (15 mL) was added NaH (327 mg, 8.16 mmol) at 0° C. The mixture was stirred at 0° C. to RT for 0.5 h. SEMCl (1.45 mL, 8.16 mmol) was added dropwise and the reaction mixture was stirred at RT for 2 h. The reaction mixture was quenched with water and extracted with DCM. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give the crude product which was purified by silica gel chromotography (10-100% EtOAc/Heptane, then 0-15% MeOH/DCM) to afford 4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole (1.36 g, MS: 279.3 [M+H+]).

reactant | 4-bromo-1H-imidazole | 6.8 mmol, 1.0 g | BrC=1N=CNC1 | C3H3BrN2
reactant | NaH | 8.16 mmol, 327 mg | [H-].[Na+]
reactant | SEMCl | 8.16 mmol, 1.45 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 1.36 g | BrC=1N=CN(C1)COCC[Si](C)(C)C | C9H17BrN2OSi
